US07863302B2
(6-hydroxy-1-methyl-1H-indol-3-yl)-acetic acid methyl ester
To a solution of (6-benzyloxy-1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (0.68 g, 2.10 mmol) in 1,4-dioxane (12 mL) is added a slurry of Pd/C (10%, 0.25 g). The flask is evacuated and re-filled with N2 three times. The mixture is heated to 100° C. and a solution of sodium hypophosphite, hydrate (5.0 g, 47 mmol) in water (5 mL) is added dropwise. The mixture is stirred at 100° C. for 16 hours and cooled to room temperature. The mixture is filtered through a pad of diatomaceous earth and the filtrate is concentrated under reduced pressure. The residue is purified via silica gel chromatography eluting with 25-50% EtOAc/Hexanes to provide the title compound (0.24 g, 52%). ES/MS m/e 220.0 (M+1), 218.0 (M−1).

reactant | (6-benzyloxy-1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 2.10 mmol, 0.68 g | COC(C(=O)C1=CN(C2=CC(=CC=C12)OCC1=CC=CC=C1)C)=O | C19H17NO4
reactant | sodium hypophosphite, hydrate | 47 mmol, 5.0 g | O.[PH2](=O)[O-].[Na+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | (6-hydroxy-1-methyl-1H-indol-3-yl)-acetic acid methyl ester | 0.24 g, 52% | COC(CC1=CN(C2=CC(=CC=C12)O)C)=O | C12H13NO3
